US07645881B2
A mixture of 2-cyano-3-thien-2-ylprop-2-enethioamide (4.2 g, 21 mmol), cycloheptone (2.4 g, 21 mmol) and piperidine (1.8 g, 22 mmol) in ethanol (100 mL) was heated to 80° C. overnight. After removal of the solvent, the residue was treated with water and extracted with ethyl acetate. The organic phase was washed with brine and dried over anhydrous sodium sulfate. The crude product, obtained after removal of the solvent, was purified by flash chromatography to afford 2-mercapto-4-thien-2-yl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonitrile (1.6 g, 25%).

reactant | 2-cyano-3-thien-2-ylprop-2-enethioamide | 21 mmol, 4.2 g | C(#N)C(C(N)=S)=CC=1SC=CC1 | C8H6N2S2
reactant | piperidine | 22 mmol, 1.8 g | N1CCCCC1 | C5H11N
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | 2-mercapto-4-thien-2-yl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonitrile | 1.6 g, 25% | SC1=C(C(=C2C(=N1)CCCCC2)C=2SC=CC2)C#N | C15H14N2S2
